US07977331B1
To a solution of 2-[2-(2-benzyloxyphenoxy)ethoxy]tetrahydropyran (4.90 g) in tetrahydrofuran (25 ml) and methanol (25 ml) was added 6N hydrochloric acid (15 ml), and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=1:1) to give 2-(2-benzyloxyphenoxy)ethanol (3.07 g, yield 84%).

reactant | 2-[2-(2-benzyloxyphenoxy)ethoxy]tetrahydropyran | 4.90 g | C(C1=CC=CC=C1)OC1=C(OCCOC2OCCCC2)C=CC=C1 | C20H24O4
reactant | hydrochloric acid | 6N, 15 ml | Cl | ClH
reactant | Water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
product | 2-(2-benzyloxyphenoxy)ethanol | 3.07 g, yield 84% | C(C1=CC=CC=C1)OC1=C(OCCO)C=CC=C1 | C15H16O3
